US06011174
(4) Preparation of 4-carboxymethylphthalic acid
0.78 g of dimethyl 4-cyanomethylphthalate was dissolved in a mixed liquid comprising 15 ml of concentrated hydrochloric acid and 4 ml of acetic acid, followed by stirring under heating at 120° C. for 2.5 hours. The reaction solution was left to cool to room temperature and then extracted by an addition of ethyl acetate and water. The organic layer was post-treated in accordance with a usual method to obtain 0.53 g of the above identified compound as white solid.

reactant | dimethyl 4-cyanomethylphthalate | 0.78 g | C(#N)CC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C12H11NO4
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 4-carboxymethylphthalic acid | C(=O)(O)CC=1C=C(C(C(=O)O)=CC1)C(=O)O | C10H8O6
